delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.308966
Rb B C 30.577789
Cc C A 2.92e-06
Rload B 0 29.561811
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rload[i]
.endc
.end
